US03944608
Into a 250 ml. 3-necked flask fitted with a stirrer, dry ice-acetone trap, a gas outlet, and a gas inlet is charged 41.05 g. (1.0 mole) acetonitrile, 25 g. (0.25 mole) CaCO3, 13.5 ml. (0.75 mole) water and 26.8 g. (0.475 mole) 1-butene. The mixture is cooled to -5° to -8° C. and chlorine added over 2 hours maintaining the temperature at below 7° C. until the reaction mixture turns yellow indicating a slight excess of chlorine. The mixture is filtered and the solvents distilled under reduced pressure to yield 28.6 g. of N-[1-(chloromethyl)propyl]acetamide (40.2 percent yield based on 1-butene).

reactant | acetonitrile | 1.0 mole | C(C)#N | C2H3N
reactant | CaCO3 | 0.25 mole | C(=O)([O-])[O-].[Ca+2]
reactant | water | 0.75 mole | O | H2O
reactant | 1-butene | 0.475 mole | C=CCC | C4H8
reactant | chlorine | ClCl | Cl2
product | N-[1-(chloromethyl)propyl]acetamide | 40.2 percent yield | ClCC(CC)NC(C)=O | C6H12ClNO
